US05278244
4a) 4-(Trimethylsilyl)styrene
A solution of trimethylchlorosilane (7.82 g, 72.4 mmole) in dry tetrahydrofuran(THF) (40 mL) was added dropwise over a 90 minute period to a solution of (4-vinylphenyl)magnesium chloride, prepared from 4-vinylphenylchloride (10 g, 72.4 mmole) and magnesium (2.43 g, 100 mmole) in dry THF (100 mL). Temperature was maintained at 10° C. during the addition. The reaction mixture was stirred at room temperature over 20 hours under nitrogen atmosphere. The crude product was obtained by direct distillation at 45°-48° C./0.5 mm in 45% yield.

reactant | trimethylchlorosilane | 72.4 mmole, 7.82 g | C[Si](Cl)(C)C | C3H9ClSi
reactant | (4-vinylphenyl)magnesium chloride | C(=C)C1=CC=C(C=C1)[Mg]Cl
reactant | 4-vinylphenylchloride | 72.4 mmole, 10 g | C(=C)C1=CC=C(C=C1)Cl | C8H7Cl
reactant | magnesium | 100 mmole, 2.43 g | [Mg] | Mg
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | 4-(Trimethylsilyl)styrene | 45% yield | C[Si](C1=CC=C(C=C)C=C1)(C)C | C11H16Si
